US07820698B2
Step 1: (3-Amino-phenyl)-methanol.
3-Amino benzoic acid (1.05 g, 7.65 mmoles) was dissolved in THF (30 mL) under nitrogen atmosphere. Borane (BH3 1M solution in THF, 24 ml, 24 mmoles) was added, and the resulting solution was stirred at room temperature for 20 hours. The reaction mixture was then poured into a saturated NH4Cl solution (100 mL) and extracted with AcOEt (3×100 mL). The organic layer was dried over Na2SO4 and evaporated to dryness to yield 388 mg of the title compound, which was employed in the next step without further purification.

reactant | 3-Amino benzoic acid | 7.65 mmoles, 1.05 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | Borane | 24 mmoles, 1M, 24 ml | B | BH3
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (3-Amino-phenyl)-methanol | 388 mg | NC=1C=C(C=CC1)CO | C7H9NO
